US06504025B2
Preparation of the 7-[2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-formyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid Benzhydryl Ester
2.2 (via MnO2): To a solution of 10.00 g (12.36 mMol) 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-hydroxymethyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester in 100 ml tetrahydofurane and 100 ml dichloromethane is added in 13 portions in 15 min intervals 65 g manganese dioxide (0.75 Mol) with stirring. To the resulting suspension is added 10.0 g active coal and 500 ml ethyl acetate. The mixture is concentrated to a volume of 200 ml. To resulting suspension is added 100 ml n hexane and the mixture is purified by chromatography over 500 g silica gel using 1:2 mixture of n hexane: ethyl acetate as eluent. The product fraction are collected and evaporated to dryness under aspirator vacuum. The resulting foam is triturated with 30 ml t-butylmethyl ether to give 5.2 g of the title compound as a yellowish powder with identical analytical characteristics as in example 2.1.

reactant | 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-hydroxymethyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester | 12.36 mMol, 10.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CO)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N)=O)=O | C44H36N6O6S2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydofurane | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | MnO2 | O=[Mn]=O
catalyst | manganese dioxide | 0.75 Mol, 65 g | [O-2].[O-2].[Mn+4]
product | 7-[2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-formyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid Benzhydryl Ester | 5.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=O)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N)=O)=O | C44H34N6O6S2
